US05232931
A mixture of 10 g of 3-p-methoxyphenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one and 10 g of pyridine hydrochloride is stirred at 160° for 3 hours. Usual workup gives 3-p-hydroxyphenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one.

reactant | 3-p-methoxyphenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one | 10 g | COC1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)C1=CC2=C(C=C1)OCO2)=O | C23H26N2O5
reactant | pyridine hydrochloride | 10 g | Cl.N1=CC=CC=C1
product | 3-p-hydroxyphenyl-5-[4-(3,4-methylenedioxyphenyl)piperidinomethyl]oxazolidin-2-one | OC1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)C1=CC2=C(C=C1)OCO2)=O | C22H24N2O5
